US04171375
A solution of (±)-7-(1,2-epoxy-5-oxocyclopentyl)-heptanoic acid (3.0 g) in glacial acetic acid (75 ml) was heated at reflux for 8 hours. The excess acetic acid was then removed in vacuo to give an oil which crystallised on standing. Recrystallisation from a mixture of water and ethanol gave (±)-7-(4-acetoxy-5-oxocyclopent-1-enyl)heptanoic acid (1.4 g), m.p. 62°-65° C.

reactant | (±)-7-(1,2-epoxy-5-oxocyclopentyl)-heptanoic acid | 3.0 g | O1C2(C1CCC2=O)CCCCCCC(=O)O | C12H18O4
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | (±)-7-(4-acetoxy-5-oxocyclopent-1-enyl)heptanoic acid | 1.4 g | C(C)(=O)OC1CC=C(C1=O)CCCCCCC(=O)O | C14H20O5
